US06440965B1
Ethyl formate (Acros) (11 mL) was added to a solution of 2-amino-5-(4-chlorophenoxy)-4-(piperazino)pyrimidine (0.433 g, 1.41 mmoles) in methanol, and after 16 hours the solution was spin evaporated in vacuo to give a colorless syrup. The syrup was triturated under hexanes containing 1% ethyl acetate to give a solid that was collected and recrystallized from ethyl acetate to give 0.250 g (53% yield) of 2-amino-5-(4-chlorophenoxy)-4-(4-formylpiperazino)pyrimidine as white crystals, mp 159-161° C.

reactant | Ethyl formate | 11 mL | C(=O)OCC | C3H6O2
reactant | 2-amino-5-(4-chlorophenoxy)-4-(piperazino)pyrimidine | 1.41 mmoles, 0.433 g | NC1=NC=C(C(=N1)N1CCNCC1)OC1=CC=C(C=C1)Cl | C14H16ClN5O
solvent | methanol | CO | CH4O
product | 2-amino-5-(4-chlorophenoxy)-4-(4-formylpiperazino)pyrimidine | 0.250 g, 53% yield | NC1=NC=C(C(=N1)N1CCN(CC1)C=O)OC1=CC=C(C=C1)Cl | C15H16ClN5O2
